US09085516B2
Preparation of 2-(3,3-dimethylcyclohexyl)-5-methylhexan-2-ol
The protocol of example 1 is carried out again with 3-methyl-1-bromobutane replacing bromoethane, and herbac replacing dehydroherbac.

reactant | 3-methyl-1-bromobutane | CC(CCBr)C | C5H11Br
reactant | herbac | CC(=O)C1CCCC(C1)(C)C | C10H18O
product | 2-(3,3-dimethylcyclohexyl)-5-methylhexan-2-ol | CC1(CC(CCC1)C(C)(CCC(C)C)O)C | C15H30O
